US03988458
Upon boiling a solution of 7.8 g 1-naphthaldehyde and 13.0 g amidinoacetic acid ethyl ester in 150 ml ethanol for 2 hours, 2,6-diamino-4-(naphth-1-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 162°-163° C (ethanol) is obtained.

reactant | 1-naphthaldehyde | 7.8 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(naphth-1-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 52% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=CC2=CC=CC=C12)C(=O)OCC)N)N | C21H23N3O4
